### PR TITLE
[Merged by Bors] - feat(Probability/Independence/Basic): upstream `iIndepFun_iff_pi_map_eq_map` from PFR

### PR DESCRIPTION
**Pull request by hanwenzhu**
* Added lemma `aemeasurable_pi_lambda` for `AEMeasurable (f : α → ∀ a : δ, X a) μ` for countable `δ`, parallel to `measurable_pi_lambda`.
* Showed that a finite collection of random variables are independent iff their joint law is the product distribution of their respective laws.

This lemma is needed in CLT.

I am using git blame on PFR to figure out the person (@MantasBaksys) who wrote this and adding to co-authored-by field:

Co-authored-by: Mantas Bakšys <baksys.mantas@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean [hunk 1]
```diff
@@ -419,4 +419,21 @@ theorem Measurable.comp_aemeasurable' [MeasurableSpace δ] {f : α → δ} {g :
     (hg : Measurable g) (hf : AEMeasurable f μ) : AEMeasurable (fun x ↦ g (f x)) μ :=
   Measurable.comp_aemeasurable hg hf
 
+variable {δ : Type*} [Countable δ] {X : δ → Type*} [∀ a, MeasurableSpace (X a)]
+
+theorem aemeasurable_pi_iff {g : α → ∀ a, X a} :
+    AEMeasurable g μ ↔ ∀ a, AEMeasurable (fun x => g x a) μ := by
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean:425]: The new code is mixing `=>` and `↦` for functions. Let's use only one.
```suggestion
    AEMeasurable g μ ↔ ∀ a, AEMeasurable (fun x ↦ g x a) μ := by
```

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean [hunk 2]
```diff
@@ -419,4 +419,21 @@ theorem Measurable.comp_aemeasurable' [MeasurableSpace δ] {f : α → δ} {g :
     (hg : Measurable g) (hf : AEMeasurable f μ) : AEMeasurable (fun x ↦ g (f x)) μ :=
   Measurable.comp_aemeasurable hg hf
 
+variable {δ : Type*} [Countable δ] {X : δ → Type*} [∀ a, MeasurableSpace (X a)]
+
+theorem aemeasurable_pi_iff {g : α → ∀ a, X a} :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean:424]: I find the use of forall a bit strange for a product type.
```suggestion
theorem aemeasurable_pi_iff {g : α → Π a, X a} :
```

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean [hunk 3]
```diff
@@ -419,4 +419,21 @@ theorem Measurable.comp_aemeasurable' [MeasurableSpace δ] {f : α → δ} {g :
...
+  constructor
+  · intro hg a
+    use fun x ↦ hg.mk g x a, hg.measurable_mk.eval
+    exact hg.ae_eq_mk.mono fun _ h ↦ congrFun h _
+  · intro h
+    use fun x a ↦ (h a).mk _ x, measurable_pi_lambda _ fun a ↦ (h a).measurable_mk
+    exact (eventually_countable_forall.mpr fun a ↦ (h a).ae_eq_mk).mono fun _ h ↦ funext h
+
+@[fun_prop, aesop safe 100 apply (rule_sets := [Measurable])]
+theorem aemeasurable_pi_lambda (f : α → ∀ a, X a) (hf : ∀ a, AEMeasurable (fun c => f c a) μ) :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean:435]:
```suggestion
theorem aemeasurable_pi_lambda (f : α → Π a, X a) (hf : ∀ a, AEMeasurable (fun c ↦ f c a) μ) :
```

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean [hunk 4]
```diff
@@ -419,4 +419,21 @@ theorem Measurable.comp_aemeasurable' [MeasurableSpace δ] {f : α → δ} {g :
     (hg : Measurable g) (hf : AEMeasurable f μ) : AEMeasurable (fun x ↦ g (f x)) μ :=
   Measurable.comp_aemeasurable hg hf
 
+variable {δ : Type*} [Countable δ] {X : δ → Type*} [∀ a, MeasurableSpace (X a)]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean:422]:
```suggestion
variable {δ : Type*} [Countable δ] {X : δ → Type*} {mX : ∀ a, MeasurableSpace (X a)}
```
To allow for sigma-algebras that are not the one found by typeclass inference.

File: Mathlib/Probability/Independence/Basic.lean [hunk 5]
```diff
@@ -731,6 +731,31 @@ lemma iIndepFun_precomp_of_bijective {g : ι' → ι} (hg : g.Bijective) :
   mp := .of_precomp hg.surjective
   mpr := .precomp hg.injective
 
+theorem iIndepFun_iff_pi_map_eq_map [Fintype ι] [IsProbabilityMeasure μ]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Independence/Basic.lean:734]: Can you move that next to `ProbabilityTheory.indepFun_iff_map_prod_eq_prod_map_map`?

Comment (RemyDegenne) [inline Mathlib/Probability/Independence/Basic.lean:734]: `indepFun_iff_map_prod_eq_prod_map_map` also works for finite measures. Can you also relax the `IsProbabilityMeasure μ` assumption here to have `IsFiniteMeasure μ` instead?

File: Mathlib/Probability/Independence/Basic.lean [hunk 6]
```diff
@@ -731,6 +731,31 @@ lemma iIndepFun_precomp_of_bijective {g : ι' → ι} (hg : g.Bijective) :
...
+    (hf : ∀ (x : ι), AEMeasurable (f x) μ) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Independence/Basic.lean:735]:
```suggestion
    (hf : ∀ i, AEMeasurable (f i) μ) :
```
That variable is denoted by i everywhere in the proof.

**Review by RemyDegenne — COMMENTED** [review]
Thanks for upstreaming this!

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean (hunk 2 above)
Comment (hanwenzhu) [reply Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean:424]: Thanks, I definitely agree. I copied signature from `measurable_pi_iff`. Should I also change this notation there?

File: Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean (hunk 4 above)
Comment (hanwenzhu) [reply Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean:422]: Same as above, I copied this from `measurable_pi_iff` in `Mathlib/MeasureTheory/MeasurableSpace/Basic.lean`. Should I also change the notation in that file? (perhaps in separate PR)

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/MeasureSpaceDef.lean:422]: Another PR modifying that other file would be welcome. Let's not do this in this PR though.

File: Mathlib/Probability/Independence/Basic.lean (hunk 5 above)
Comment (hanwenzhu) [reply Mathlib/Probability/Independence/Basic.lean:734]: I tried to do that but had limited success: I don't need any assumption for the forward direction because of `iIndepFun.isProbabilityMeasure`. But for the reverse direction there are special cases: if ι is singleton, then it seems the RHS of ↔ is unconditionally true, while LHS requires µ to be a probability measure.

**Comment by hanwenzhu** [comment]
One style question I had but forgot to ask is: currently `iIndepFun_iff_pi_map_eq_map` and `indepFun_iff_map_prod_eq_prod_map_map` have different directions (`pi_eq_map` vs `map_eq_prod`). I think they (and their naming) should be unified, but I don't know which direction makes more sense.

**Comment by RemyDegenne** [comment]
The rewriting direction of `indepFun_iff_map_prod_eq_prod_map_map` seems the more natural to me: you use independence to say that the joint law is a product.

File: Mathlib/Probability/Independence/Basic.lean [hunk 7]
```diff
@@ -615,6 +615,32 @@ theorem indepFun_iff_map_prod_eq_prod_map_map {mβ : MeasurableSpace β} {mβ' :
...
+      congr with x
+      simp
+  constructor
+  · refine fun hS ↦ Measure.pi_eq fun h hm ↦ ?_
+    rw [← (h₀ hm).1, ← (h₀ hm).2]
+    simpa [hm] using hS Finset.univ (sets := h)
+  · intro h S s hs
+    specialize h₀ (s := fun i ↦ if i ∈ S then s i else univ)
+      fun i ↦ by beta_reduce; split_ifs with hiS <;> simp [hiS, hs]
+    simp [← h, apply_ite, Finset.prod_ite, iInter_ite] at h₀
```
Comment (RemyDegenne) [inline Mathlib/Probability/Independence/Basic.lean:641]: That's a non-terminal `simp`. Please replace it by a `simp only`.

Comment (hanwenzhu) [reply Mathlib/Probability/Independence/Basic.lean]: Nice catch, sorry I didn't notice that! Thank you!

**Comment by hanwenzhu** [comment]
> The rewriting direction of `indepFun_iff_map_prod_eq_prod_map_map` seems the more natural to me: you use independence to say that the joint law is a product.

Thanks, I changed the direction of my newly added theorem. After changing the direction, I renamed to `iIndepFun_iff_map_fun_eq_pi_map` because in my opinion it makes more sense than `iIndepFun_iff_map_eq_pi_map`; but if you have any name suggestions I am very happy to change it

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
